Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5](=[O:6])[H:15])([H:7])([H:8])[H:9].[H:14][H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9],71.40539739652208
[C:1]([H:7])([H:8])([H:9])[H:14].[C:2](=[O:3])([H:10])[H:11].[C:4](=[C:5]([H:13])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],56.79782097790269
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([O:3][H:11])[C:6]([H:15])=[N:7]1)([H:8])([H:9])[H:10].[C:4](=[N:5][H:14])([H:12])[H:13],69.73021083782061
[O+:1]#[C:2][C@@:3]([C:4]([C-:5]([H:11])[H:12])([H:9])[H:10])([O:6][H:7])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],19.703174695927096
[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[O:6][C:5](=[O:4])[H:10]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],7.555543489601298
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]1([O:5][H:14])[C:6]([C:7][H:17])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],3.3536813597636126
[C:1]1([H:9])=[C:7]([H:17])[C@:6]2([H:16])[C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:8])([H:13])[C:5]2([H:14])[H:15]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],99.1850502439035
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[C:4](=[O:5])([C:6](=[O:7])[H:10])[H:9].[N:1](=[C:2]=[O:3])[H:8],55.006055504766294
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[O:3])([H:8])[H:9].[N-:4]([C+:5]([N:6]([H:7])[H:12])[H:11])[H:10],58.7181697451975
[C:1]([N:2]([C:3]1=[C:5]=[N+:6]([H:11])[N-:4]1)[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],31.282641775714936
[C@@:1]1([C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])[C:2][C:3]1([H:8])[H:9]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],30.9225249436179
[N:1](=[C:6](/[C:2]([O:3][C:4](=[O:5])[H:9])=[O:7])[H:10])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],80.13190417125442
[C:1]([C:2]([O:3][H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])=[C:6]([O:7][H:15])[H:13]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],22.649131444113003
[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:4](=[C:5]=[O:6])([H:12])[H:13].[O:1]([C:2]([C:3]([H:10])([H:11])[H:14])([H:8])[H:9])[H:7],74.63824207272908
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C+:4](=[C:5]=[N-:6])[H:12].[C:1]([C:2]([O:3][H:13])([H:10])[H:11])([H:7])([H:8])[H:9],68.71308501299771
[C:2]1([H:8])([H:9])[C:3]([O:4][H:14])([H:10])[C:5]([H:12])([H:13])[O:6]1.[O:1]([H:7])[H:11]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],54.173292135165404
[O:1]([C:6](=[C:5]=[C:2]([C:3]#[C:4][H:9])[H:8])[H:10])[H:7]>>[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7],68.0599087212827
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([N+:7]#[C-:6])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],20.7846571895318
[C:1]([C:2]([C@:3]1([H:13])[C:5]([H:15])([H:16])[C:6]([H:17])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10].[O:4][H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],4.685113917445008
[C:1]([C@@:2]1([H:11])[C:3]([H:12])=[C:4]2[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10].[O:5]([H:13])[H:14]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],30.599046251461907
[N:1]([O+:3]=[C-:2][H:6])([H:4])[H:5]>>[N:1]([C:2](=[O:3])[H:6])([H:4])[H:5],2.75895286431701
[C:1]([O:2][C:3](/[C:4](=[N:5]/[C:6](=[O:7])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:15]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],65.4582343167255
[C:1]([C:2](/[C:3](=[C:4](/[C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:16]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],84.1252465097115
[C-:2]([C:3]([H:11])([H:12])[H:13])=[O+:4][C:5](=[O:6])[H:14].[C:1]([H:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],10.045461987280788
